### PR TITLE
define plus to diffInt and prove diffInt is group

### PR DESCRIPTION
**Pull request by hyleIndex**

### CODE REVIEW

**Comment by felixwellen** [comment]
Thank you for the contribution. Please note that there is an ongoing effort (#587) to implement the usual general construction of the Grothendieck Group of a commutative monoid (which should turn out to be DiffInt for the monoid (ℕ,+)).

**Comment by hyleIndex** [comment]
> * There are whitespace errors (at least some trainling whitespaces at line endings). You can detect them by running 'make' and most likely, you are using an editor that can remove those whitespaces automatically (see 'CONTRIBUTING.md').
> * Most of the definitions in 'DiffInt/Properties.agda' should be private (with 'private' or by putting everything in a module), so a user can decide if/how to use them. It would be good to hide at least all proofs of group axioms, since that can easily be accessed by opening the term in 'IsGroup DiffInt'.
> * It would be nice to have 'DiffInt' as a term of type 'Group'.

Thanks for your suggestions, now all the issues should be fixed.

File: Cubical/Data/Int/MoreInts/DiffInt/Properties.agda [hunk 1]
```diff
@@ -52,3 +56,172 @@ private
...
+ℤ+-assoc = elimProp3 (λ _ _ _ → ℤ-isSet _ _)
+  (λ { (a , b) (c , d) (e , f) i → [ ℕ.+-assoc a c e i -ℕ' ℕ.+-assoc b d f i ] })
+
+ℤ-isGroup : IsGroup {G = ℤ} [ 0 , 0 ] _+_ -ℤ'_
+IsSemigroup.is-set (IsMonoid.isSemigroup (IsGroup.isMonoid ℤ-isGroup)) = ℤ-isSet
+IsSemigroup.assoc (IsMonoid.isSemigroup (IsGroup.isMonoid ℤ-isGroup)) = ℤ+-assoc
+IsMonoid.identity (IsGroup.isMonoid ℤ-isGroup) = λ x → (zero-identityʳ 0 x  , zero-identityˡ 0 x)
+IsGroup.inverse ℤ-isGroup = λ x → (-ℤ'-invʳ x , -ℤ'-invˡ x)
+
+Int = group ℤ [ 0 , 0 ] _+_ -ℤ'_ ℤ-isGroup
```
Comment (felixwellen) [inline Cubical/Data/Int/MoreInts/DiffInt/Properties.agda:227]: If you add the type, i.e. 'Group ℓ-zero' it will be easier for a user to spot, where the actual group is defined.
Also, if you like, you could add a prove that the multiplication is commutative and turn it into an 'AbGroup'.

File: Cubical/Data/Int/MoreInts/DiffInt/Properties.agda [hunk 2]
```diff
@@ -52,3 +56,172 @@ private
...
+  -ℤ' [ a ] = [ snd a , fst a ]
+  -ℤ' eq/ a b r i = eq/ (snd a , fst a) (snd b , fst b) (tmp a b r) i
+                                                        where
+                                                          tmp : ∀ a b → fst a +ℕ snd b ≡ fst b +ℕ snd a → snd a +ℕ fst b ≡ snd b +ℕ fst a
+                                                          tmp a b r =
+                                                            snd a +ℕ fst b ≡⟨ ℕ.+-comm (snd a) (fst b) ⟩
+                                                            fst b +ℕ snd a ≡⟨ sym r ⟩
+                                                            fst a +ℕ snd b ≡⟨ ℕ.+-comm (fst a) (snd b) ⟩
+                                                            snd b +ℕ fst a ∎
+  -ℤ' squash/ a a₁ p q i i₁ = squash/ (-ℤ' a) (-ℤ' a₁) (cong (λ x → -ℤ' x) p) (cong (λ x → -ℤ' x) q) i i₁
```
Comment (felixwellen) [inline Cubical/Data/Int/MoreInts/DiffInt/Properties.agda:162]: You should avoid the long line by moving the 'where'-block more to the left.

Comment (hyleIndex) [reply Cubical/Data/Int/MoreInts/DiffInt/Properties.agda]: Thanks for the comment,
I have fixed it now.

File: Cubical/Data/Int/MoreInts/DiffInt/Properties.agda (hunk 1 above)
Comment (hyleIndex) [reply Cubical/Data/Int/MoreInts/DiffInt/Properties.agda:251]: Thanks for the comment,
I have fixed it now.

**Comment by hyleIndex** [comment]
Ah yes, makes sense. Thanks for the suggestions. I have made all the stuff except Int private.

**Comment by felixwellen** [comment]
Looks good to me now, I'll ask a maintainer to merge it.

**Comment by hyleIndex** [comment]
Great! Thank you so much

File: Cubical/Data/Int/MoreInts/DiffInt/Properties.agda [hunk 3]
```diff
@@ -52,3 +61,188 @@ private
...
+  IsSemigroup.is-set (IsMonoid.isSemigroup (IsGroup.isMonoid ℤ-isGroup)) = ℤ-isSet
+  IsSemigroup.assoc (IsMonoid.isSemigroup (IsGroup.isMonoid ℤ-isGroup)) = ℤ+-assoc
+  IsMonoid.identity (IsGroup.isMonoid ℤ-isGroup) = λ x → (zero-identityʳ 0 x  , zero-identityˡ 0 x)
+  IsGroup.inverse ℤ-isGroup = λ x → (-ℤ'-invʳ x , -ℤ'-invˡ x)
+
+  ℤ-isAbGroup : IsAbGroup {G = ℤ} [ 0 , 0 ] _+_ -ℤ'_
+  IsAbGroup.isGroup ℤ-isAbGroup = ℤ-isGroup
+  IsAbGroup.comm ℤ-isAbGroup = ℤ+comm
+
+Int : AbGroup ℓ-zero
```
Comment (mortberg) [inline Cubical/Data/Int/MoreInts/DiffInt/Properties.agda:246]: I think this should be `ℤ`

**Review by mortberg — CHANGES_REQUESTED** [review]
I would suggest moving the Group and AbGroup instances to a subfolder of the respective folders in Algebra. For inspiration see how we did it for CommRing: https://github.com/agda/cubical/blob/master/Cubical/Algebra/CommRing/Instances/

I think this should be the general way of organizing instances so that one can find them easily. At the moment far from all instances are implemented this way. We should fix this in some future PRs
